US05216150
1-[N-(tert-Butoxycarbonyl)-p-nitrophenylalanyl]-4-(p-methoxyphenyl)piperazine
9.00 g of N-(tert-butoxycarbonyl)-p-nitrophenylalanine was dissolved in 120 ml of tetrahydrofuran, 100 ml of methylene chloride and 100 ml of chloroform, and to the solution were sequentially added 7.68 g of N-(p-methoxyphenyl) piperazine dihydrochloride and 4.44 g of N-hydroxybenzotriazole monohydrate as well as 20 ml of triethylamine and 6 g of DCC, and the mixture was stirred at a room temperature for 18 hours. The reaction mixture was concentrated to one third of the original volume under a reduced pressure, and after adding 200 ml of 2.5% potassium carbonate aqueous solution, extracted twice with 200 ml of chloroform. The extract was dried over magnesium sulfate and concentrated under a reduced pressure to crystallize a product, which was washed with methanol to obtain 10.75 g of the title compound as colorless crystals.

reactant | N-(tert-butoxycarbonyl)-p-nitrophenylalanine | 9.00 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C14H18N2O6
reactant | N-(p-methoxyphenyl) piperazine dihydrochloride | 7.68 g | Cl.Cl.COC1=CC=C(C=C1)N1CCNCC1
reactant | N-hydroxybenzotriazole monohydrate | 4.44 g | O.ON1N=NC2=C1C=CC=C2
reactant | DCC | 6 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-[N-(tert-Butoxycarbonyl)-p-nitrophenylalanyl]-4-(p-methoxyphenyl)piperazine | 10.75 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N1CCN(CC1)C1=CC=C(C=C1)OC | C25H32N4O6
